US08865712B2
j) (R)-5-(6-Bromo-3-fluoro-pyridin-2-yl)-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine
To a solution of (R)-5-(6-bromo-3-fluoro-pyridin-2-yl)-5-difluoromethyl-morpholin-3-thione (611 mg, 1.79 mmol) in methanol (15 ml) was added ammonia (5.12 ml, 35.8 mmol, 7M in methanol), the vial was sealed and the reaction mixture was stirred at rt for 20 h. The reaction mixture was diluted with ethyl acetate. The organic layer was washed with aq. sodium thiosulfate solution (10%), water and brine, dried over sodium sulfate, filtered and evaporated. The crude product (640 mg) was chromatographed over silica gel (14 g, dichloromethane/methanol 95/5+0.5% NH3) to give the title compound. 180 mg (31% yield).

reactant | (R)-5-(6-bromo-3-fluoro-pyridin-2-yl)-5-difluoromethyl-morpholin-3-thione | 1.79 mmol, 611 mg | BrC1=CC=C(C(=N1)[C@@]1(COCC(N1)=S)C(F)F)F | C10H8BrF3N2OS
reactant | ammonia | 35.8 mmol, 7M, 5.12 ml | N | H3N
solvent | methanol | 15 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-5-(6-Bromo-3-fluoro-pyridin-2-yl)-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine | 31% yield | BrC1=CC=C(C(=N1)[C@]1(N=C(COC1)N)C(F)F)F | C10H9BrF3N3O
